US06409830B1
Synthesis of Lithium Dimethylaluminum Isopropoxide (LiOPri.(PriO)AlMe2)
3.55 g (53.8 mmol) of lithium isopropoxide was added to 6.25 g (53.8 mmol) of dimethylaluminum isopropoxide dissolved in diethyl ether and stirred for a day. The resulting mixture was distilled under a reduced pressure to remove the solvent and the resulting solid residue was sublimed under a vacuum at 110° C. to obtain 8.98 g (49.3 mmol; 92% yield) of the title compound in the form of a white solid.

reactant | lithium isopropoxide | 53.8 mmol, 3.55 g | CC([O-])C.[Li+]
reactant | dimethylaluminum isopropoxide | 53.8 mmol, 6.25 g | CC([O-])C.C[Al+]C
solvent | diethyl ether | C(C)OCC | C4H10O
product | Lithium Dimethylaluminum Isopropoxide | 92% yield | CC([O-])C.C[Al+]C.[Li+].CC([O-])C | InChI=1S/2C3H7O.2CH3.Al.Li/c2*1-3(2)4;;;;/h2*3H,1-2H3;2*1H3;;/q2*-1;;;2*+1
